US08563575B2
The mixture of tert-butyl 2-chloropyridin-3-ylcarbamate (10.0 g), 4-nitroaniline (8.0 g), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (2.53 g), Pd2(dba)3 (2 g) and sodium tert-butoxide (12.5 g) in toluene (160 mL)-2-propanol (40.0 mL) was stirred at 100° C. under Ar overnight. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-100% EtOAc in hexane) to give 3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (4.0 g) as a light brown solid. A mixture of 3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (3.50 g), sodium hydride (0.400 g) and iodoethane (2.0 mL) in DMF (40 mL) was stirred at 20° C. under a dry atmosphere (CaCl2 tube) for 1 h. The mixture was concentrated under reduced pressure. The residue was purified by column chromatography (NH silica gel, eluted with 0%-30% EtOAc in hexane) to give 1-ethyl-3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.70 g) as a brown solid. A mixture of 1-ethyl-3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.70 g) and 10% palladium-carbon (0.832 g) in EtOH (250 mL) was hydrogenated under balloon pressure at room temperature for 3 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give 3-(4-aminophenyl)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.00 g) as a brown solid.

reactant | tert-butyl 2-chloropyridin-3-ylcarbamate | 10.0 g | ClC1=NC=CC=C1NC(OC(C)(C)C)=O | C10H13ClN2O2
reactant | 4-nitroaniline | 8.0 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 2.53 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | sodium tert-butoxide | 12.5 g | CC(C)([O-])C.[Na+]
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 2 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 2-propanol | 40.0 mL | CC(C)O | C3H8O
product | 3-(4-nitrophenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 4.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(NC=2C1=NC=CC2)=O | C12H8N4O3
